US05220003
(E) 5,5-Dimethoxypent-2-enal
To a mixture of 1-trimethylsilyloxy-1,3-butadiene (14.57 g, 0.1 mol) and trimethyl orthoformate (10 855 g, 0.1 mol) stirring in dichloromethane (500 ml) was added ZnCl2 (1.75 g, 10% mol), and the mixture stirred vigorously at 25° C. for 18 h. The reaction mixture was then poured into saturated aq. NaHCO3 (100 ml), and the organic layer collected. The aqueous layer was reextracted with dichloromethane (100 ml), the combined organic extracts dried over MgSO4, and the solvents removed in vacuo. The resulting brown oil was taken up in hexane/ethyl acetate (1:1) and filtered through a pad of flash silica gel, washing through with a further 400 ml of the solvent mixture. The solvents were removed in vacuo and the crude product Kugelrohr distilled slowly (~0.4 MM Hg/100° C.) to provide the pure enal (7.065 g, 49%)

reactant | 1-trimethylsilyloxy-1,3-butadiene | 0.1 mol, 14.57 g | C[Si](OC=CC=C)(C)C | C7H14OSi
reactant | trimethyl orthoformate | 0.1 mol, 855 g | C(OC)(OC)OC | C4H10O3
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | ZnCl2 | 1.75 g | [Cl-].[Cl-].[Zn+2]
product | 5,5-Dimethoxypent-2-enal | COC(CC=CC=O)OC | C7H12O3
